US06333323B1
In a manner similar to that described in Reference example 1, 5-benzyloxyindole was reacted with DMA/POCl3 to give 3-acetyl-5-benzyloxyindole.

reactant | 5-benzyloxyindole | C(C1=CC=CC=C1)OC=1C=C2C=CNC2=CC1 | C15H13NO
reactant | DMA POCl3 | CC(=O)N(C)C.O=P(Cl)(Cl)Cl
product | 3-acetyl-5-benzyloxyindole | C(C)(=O)C1=CNC2=CC=C(C=C12)OCC1=CC=CC=C1 | C17H15NO2
